US05688795
A solution of 3-[4-(2-methoxyphenyl)piperazin-1-yl]-1-propanol (2.16 g, 8.6 mmol), prepared as in Example 10, in 20 mL of methylene chloride was cooled to 0° C. under nitrogen and triethylamine (1.45 mL, 10.5 mmol) and methanesulfonyl chloride (0.74 mL, 9.5 mmol) in 20 mL of methylene chloride were added. The mixture was allowed to warm to room temperature and stirred for 45 minutes. The mixture was poured into aqueous sodium bicarbonate and extracted with ethyl acetate. The extract was washed with brine, dried (K2CO3) and concentrated by rotary evaporation. The residue was dissolved in 10 mL of DMF and the solution was added to a mixture of potassium thioacetate (1.18 g, 10.3 mmol) and sodium iodide (65 mg, 0.4 mmol) in 20 mL of DMF. The mixture was purged with nitrogen under a vacuum and then heated at 50° C. for 20 hours. The mixture was allowed to cool to room temperature and partitioned between water and hexanes/ethyl acetate (1:1). The organic layer was separated, washed with water and then brine, dried (Na2SO4) and concentrated. The residue was purified on silica gel by column chromatography eluting with hexanes/ethyl acetate (2:1) to give 3-[4-(2-methoxyphenyl)piperazin-1-yl]propylthioacetate (1.43 g, 4.6 mmol).

reactant | 3-[4-(2-methoxyphenyl)piperazin-1-yl]-1-propanol | 8.6 mmol, 2.16 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCO | C14H22N2O2
reactant | triethylamine | 10.5 mmol, 1.45 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 9.5 mmol, 0.74 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | potassium thioacetate | 10.3 mmol, 1.18 g | C(C)(=S)[O-].[K+]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | sodium iodide | 0.4 mmol, 65 mg | [I-].[Na+]
product | 3-[4-(2-methoxyphenyl)piperazin-1-yl]propylthioacetate | 4.6 mmol, 1.43 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCOC(C)=S | C16H24N2O2S
